US06861524B2
N,N-Disubstituted sulfamoyl chlorides were prepared as described by Binkley and Degering [J. Am. Chem. Soc., 61, 3250-3251 (1939)], herein incorporated by reference. For example, diethylamine (0.33 mole) was added very slowly to sulfuryl chloride (0.33 mole) with vigorous stirring and ice water chilling. The mixture was warmed and heated under reflux for 24 hours. The cooled mixture was extracted with anhydrous ethyl ether, and the extract was concentrated and the residue distilled under reduced pressure to afford N,N-diethyl sulfamoyl chloride, b.p. 69° (10 mmHg). N,N-Dimethyl-sulfamoyl chloride was purchased commercially.

reactant | diethylamine | 0.33 mole | C(C)NCC | C4H11N
reactant | sulfuryl chloride | 0.33 mole | S(=O)(=O)(Cl)Cl | Cl2O2S
product | N,N-diethyl sulfamoyl chloride | C(C)N(S(=O)(=O)Cl)CC | C4H10ClNO2S
